US04321268
Preparation of p-cyclohexylphenyl nicotinate
17.6 g (100 mmol) of cyclohexylphenol and 19 g (106 mmol) of nicotinic acid chloride hydrochloride was mixed with 250 ml of dry pyridine and kept at 40° C. for 4 hours. Subsequently, the mixture was cooled in the ice bath, and water added in portions. After addition of 10 ml of water a clear solution was obtained. Water (50 ml) was admixed until strong turbidity appeared. After stirring the mixture for a longer period of time the product crystallized in the ice bath. The precipitate was sucked off, freed from pyridine by washing with water and dried. A second fraction was obtained from the filtrate by further adding water (60 ml).

reactant | cyclohexylphenol | 100 mmol, 17.6 g | C1(CCCCC1)C1=C(C=CC=C1)O | C12H16O
reactant | nicotinic acid chloride hydrochloride | 106 mmol, 19 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 60 ml | O | H2O
reactant | Water | 50 ml | O | H2O
reactant | water | 10 ml | O | H2O
product | p-cyclohexylphenyl nicotinate | C(C1=CN=CC=C1)(=O)OC1=CC=C(C=C1)C1CCCCC1 | C18H19NO2
